US07179823B1
A mixture of ethyl 3-[1-[4-(2-furylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate (624 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (6 ml), and ethanol (6 ml) was stirred at room temperature for 3 hours, and 1N hydrochloric acid (3 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and 3-[1-[4-(2-furylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionic acid (386 mg, yield: 66%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 3-[1-[4-(2-furylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate | 624 mg | O1C(=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C27H27NO4
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-[1-[4-(2-furylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionic acid | 386 mg, yield: 66% | O1C(=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)O)C=C1 | C25H23NO4
